US07795262B2
XXVI. 2-Cyclopentyloxy-6-[2-(4-Cyclobutylpiperazin-1-Yl)-2-Oxoethyl]-5,6,7,8-Tetrahydro-1,6-Naphthyridine (Scheme 15)
To a solution of cyclopentanol (99 mg, 1.15 mmol) in DMF (5 mL) is added NaH (60% in mineral oil, 18.4 mg, 0.46 mmol), and the mixture is stirred at rt for 30 min. 2-Chloro-6-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-5,6,7,8-tetrahydro-1,6-naphthyridine (80 mg, 0.23 mmol) is added and the mixture is heated at 100° C. for 2 hr. Solvent is removed and the residue is partitioned between water (10 mL) and DCM (10 mL). The layers are separated and the aqueous layer is extracted with DCM (10 ml). The combined extracts are dried and evaporated. The residue is purified by PTLC to give the title compound as a light yellow oil MS (M+1): 399.3; 1H NMR (δ, CDCl3): 7.17 (d, 1H), 6.46 (d, 1H), 5.28 (m, 1H), 3.64 (q, 4H), 3.58 (s, 2H), 3.36 (s, 2H), 2.80-2.88 (m, 4H), 2.63-2.73 (m, 1H), 2.28 (q, 4H), 1.58-2.08 (m, 14H).

reactant | cyclopentanol | 1.15 mmol, 99 mg | C1(CCCC1)O | C5H10O
reactant | NaH | 0.46 mmol, 18.4 mg | [H-].[Na+]
reactant | 2-Chloro-6-[2-(4-cyclobutylpiperazin-1-yl)-2-oxoethyl]-5,6,7,8-tetrahydro-1,6-naphthyridine | 0.23 mmol, 80 mg | ClC1=NC=2CCN(CC2C=C1)CC(=O)N1CCN(CC1)C1CCC1 | C18H25ClN4O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-Cyclopentyloxy-6-[2-(4-Cyclobutylpiperazin-1-Yl)-2-Oxoethyl]-5,6,7,8-Tetrahydro-1,6-Naphthyridine | C1(CCCC1)OC1=NC=2CCN(CC2C=C1)CC(=O)N1CCN(CC1)C1CCC1 | C23H34N4O2
